* TL494_CEH.asc
*              1 2 3 4 5 6 7 8 9 10 11 12 13 14
.subckt TL494_CEH DTC FB 1IN+ 1IN- 2IN+ 2IN- OC VCC C1 E1 RT CT REF GND
Q4 C1 N002 E1 0 2N3904
B5 N002 0 V=V(VCC)*0.5*(1-sgn(V(FB)-V(Vramp)))
XU3 1IN+ 1IN- VCC GND N001 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 2IN+ 2IN- VCC GND N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 N004 0 1
R1 CT N004 100
B1 Vc 0 V=-idt(I(R1))
V3 N005 0 1
R2 RT N005 1k
B2 VR 0 V=V(RT)/(1-V(RT))
B3 Vfreq 0 V=V(Vc)*V(VR)*1000
B4 Vramp 0 V=V(REF)/V(Vfreq)*time-floor(time/V(Vfreq))*V(REF)
V4 REF 0 5
D1 N001 FB D
D2 N003 FB D
R3 DTC 0 50k
R4 OC 0 50k
.model D D
******************************************
* enter the full path name corresponding to the second LTspice folder that is installed (usually in ~/Library/Application Support)
.lib /Users/$USER/Library/Application Support/LTspice/lib/cmp/standard.dio
******************************************
.model NPN NPN
.model PNP PNP
******************************************
* enter full path name again here
.lib /Users/$USER/Library/Application Support/LTspice/lib/cmp/standard.bjt
******************************************
.ic V(CT)=0
.lib UniversalOpamps2.sub
.backanno
.end


